US07517910B2
3-{4-[(4-{[3-(4-fluorophenyl)-4-(2-phenylethyl)-1H-pyrazol-1-yl]methyl}benzyl)oxy]phenyl}propanoic acid
A mixture of 3-(4-fluorophenyl)-1H-pyrazole-4-carbaldehyde (190 mg, 1.00 mmol), sodium hydride (60% in oil, 40 mg, 1.00 mmol) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 1 hr. Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate (318 mg, 1.00 mmol) was added to the reaction mixture at room temperature, and the mixture was further stirred for 1 hr. The reaction mixture was poured into 1 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (Manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1-1:1) to give a yellow oil. The oil was dissolved in N,N-dimethylformamide (5 mL), benzyltriphenylphosphonium bromide (660 mg, 1.52 mmol) and potassium carbonate (276 mg, 2.00 mmol) were added, and the mixture was stirred at room temperature for 12 hr. The reaction mixture was poured into 1 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was concentrated under reduced pressure to give a yellow oil. The yellow oil was dissolved in a mixed solvent of tetrahydrofuran (20 mL) and methanol (20 mL), and platinum oxide (50 mg) was added. The mixture was stirred under an atmospheric hydrogen atmosphere at room temperature for 2 hr. The platinum catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by HPLC (gradient cycle A) to give a colorless oil. The colorless oil was dissolved in a mixed solvent of methanol (5 mL) and tetrahydrofuran (5 mL), and 2 N sodium hydroxide aqueous solution (2 mL) was added. The mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with water, and neutralized with 1 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (Manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated under reduced pressure to give the title compound (86 mg, yield 16%) as a colorless oil. MS: m/z 535 (MH+), 1H NMR (CDCl3) δ: 2.66 (2H, t, J=7.6 Hz), 2.76-2.95 (6H, m), 5.05 (2H, s), 5.39 (2H, s), 6.90 (2H, d, J=8.7 Hz), 7.03-7.26 (12H, m), 7.41-7.53 (4H, m).

reactant | 3-(4-fluorophenyl)-1H-pyrazole-4-carbaldehyde | 1.00 mmol, 190 mg | FC1=CC=C(C=C1)C1=NNC=C1C=O | C10H7FN2O
reactant | sodium hydride | 1.00 mmol, 40 mg | [H-].[Na+]
reactant | Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate | 1.00 mmol, 318 mg | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | benzyltriphenylphosphonium bromide | 1.52 mmol, 660 mg | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 2.00 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 2 N, 2 mL | [OH-].[Na+]
solvent | water | O | H2O
catalyst | platinum oxide | 50 mg | [Pt]=O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-{4-[(4-{[3-(4-fluorophenyl)-4-(2-phenylethyl)-1H-pyrazol-1-yl]methyl}benzyl)oxy]phenyl}propanoic acid | 86 mg, yield 16% | FC1=CC=C(C=C1)C1=NN(C=C1CCC1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1 | C34H31FN2O3
